US06919322B2
A mixture of diethylphosphonomethyl 2-methoxybenzoate (1 mmol) and bromine (100 mmol) in 10 mL CHCl3 was stirred at rt for 16 h. Extraction and chromatography provided diethylphosphonomethyl 3-bromo-2-methoxybenzoate as an oil.

reactant | diethylphosphonomethyl 2-methoxybenzoate | 1 mmol | COC1=C(C(=O)OCP(=O)(OCC)OCC)C=CC=C1 | C13H19O6P
reactant | bromine | 100 mmol | BrBr | Br2
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | diethylphosphonomethyl 3-bromo-2-methoxybenzoate | BrC=1C(=C(C(=O)OCP(=O)(OCC)OCC)C=CC1)OC | C13H18BrO6P
